US09278968B2
Under an argon gas flow, to a suspension of 32.5 g of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid in 807 ml of dichloromethane were added 190 μl of DMF and 17.2 ml of oxalyl chloride under ice-cooling, followed by stirring at room temperature for 80 minutes. The reaction mixture was concentrated under reduced pressure to obtain 38.0 g of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 32.5 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | DMF | 190 μl | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 17.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 807 ml | ClCCl | CH2Cl2
product | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride | 38.0 g | Cl.FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)Cl)C(=CC=C1)F | InChI=1S/C16H11ClF2N2O2.ClH/c1-9-14(15(17)22)21-7-3-6-13(16(21)20-9)23-8-10-11(18)4-2-5-12(10)19;/h2-7H,8H2,1H3;1H
